US05446152
a) Synthesis of 2-amino-5-chloro-N-[3-(diethylamino)propyl]benzamide
A solution containing 4.00 grammes (20.3 mmoles) of 5-chloroisatoic anhydride in 25 ml of dioxane at room temperature is joined by 4.80 ml (30.4 mmoles) of 3-diethylamino- 1-propylamine.

reactant | 5-chloroisatoic anhydride | 20.3 mmoles, 4.00 grammes | ClC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4ClNO3
reactant | 3-diethylamino- 1-propylamine | 30.4 mmoles, 4.80 ml | C(C)N(CCCN)CC | C7H18N2
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | 2-amino-5-chloro-N-[3-(diethylamino)propyl]benzamide | NC1=C(C(=O)NCCCN(CC)CC)C=C(C=C1)Cl | C14H22ClN3O
